US04639441
p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-chloroacetate, a mixture of two isomers
Following the procedure of Preparation 2, but using p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-hydroxyacetate (470 mg), 2,6-lutidine (168 μl) and thionyl chloride (85 μl) and purifying the product by silica gel column chromatography eluted with methylene chloride, there were obtained 450 mg of the desired compound as an oil.

reactant | p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-hydroxyacetate | 470 mg | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1SC)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C21H32N2O7SSi
reactant | 2,6-lutidine | 168 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 85 μl | S(=O)(Cl)Cl | Cl2OS
product | p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-chloroacetate | 450 mg | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1SC)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C21H31ClN2O6SSi
